US06730668B2
Preparation of 4-hydroxypyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester (28):
4-Oxo-pyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester, 27, (5.0 g, 15.6 mmol) is dissolved in tetrahydrofuran (150 mL) and the solution cooled to −78° C. A 5.0 M solution of borane-dimethyl sulfide complex in ether (6.24 mL, 31.2 mmol) is added dropwise via syringe. After 40 minutes at −78° C., the reaction is quenched by slow addition of a saturated aqueous solution of ammonium chloride (20 mL). The cooling bath is removed, and the mixture allowed to warm to ambient temperature with vigorous stirring. The solvent is removed in vacuo and the residue diluted with dichloromethane (200 mL). The mixture is washed with water (150 mL) and saturated aqueous sodium bicarbonate solution (150 mL), water and brine. The combined aqueous layers are extracted with dichloromethane (200 mL), water (150 mL), NaCl (sat.) (200 mL), dried over sodium sulfate, filtered and concentrated in vacuo to afford 4.66 g (93% yield) of the desired product as a clear, viscous oil.

reactant | 4-Oxo-pyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1N(CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C16H20N2O5
reactant | ether | 31.2 mmol, 6.24 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-hydroxypyrazolidine-1,2-dicarboxylic acid 1-benzyl ester 2-tert-butyl ester | 4.66 g, 93% yield | C(C)(C)(C)OC(=O)N1N(CC(C1)O)C(=O)OCC1=CC=CC=C1 | C16H22N2O5
